US06977256B2
Morpholine-4-carboxylic acid (1-{1-[hydroxy-(5-phenyl-[1,3,4]oxadiazol-2-yl)-methyl]-pentylcarbamoyl}-2-phenylmethane-sulfonyl-ethyl)-amide (150 mg, 0.25 mmol), in MeCl2 (5 ml), was treated with Dess-Martin periodinane (183 mg, 0.43 mmol) at room temperature. After stirring for 1 hour, 5 ml of saturated Na2S2O3—NaHCO3 were added. After a further 0.5 hours, the reaction mixture was extracted with ethyl acetate, washed with brine, dried with MgSO4 and concentrated. The residue was purified with silica gel column chromatography to yield morpholine-4-carboxylic acid {2-phenylmethanesulfonyl-1-[1-(5-phenyl-[1,3,4]oxadiazole-2-carbonyl)-pentylcarbamoyl]-ethyl}-amide (84 mg); H1 NMR(DMSO-d): 8.71 (1H, d, J=6.6 Hz, NH), 8.12-8.05 (2H, m), 7.75-7.59 (3H, m), 7.38-7.36 (5H, m), 7.04 (1H, d, J=8.1 Hz, NH), 5.12-5.01 (1H, m), 4.8-4.65 (1H, m), 4.47 (2H, s), 3.58-3.46 (4H, m), 3.35-3.2 (6H, m), 2.05-1.85 (1H, m), 1.8-1.65 (1H, m), 1.5-1.2 (4H, m), 0.87 (3H, t, J=6.9 Hz, CH3); MS: 596.8 9M−1), 598.6 (M+1).

reactant | Morpholine-4-carboxylic acid (1-{1-[hydroxy-(5-phenyl-[1,3,4]oxadiazol-2-yl)-methyl]-pentylcarbamoyl}-2-phenylmethane-sulfonyl-ethyl)-amide | 0.25 mmol, 150 mg | OC(C(CCCC)NC(=O)C(CS(=O)(=O)CC1=CC=CC=C1)NC(=O)N1CCOCC1)C=1OC(=NN1)C1=CC=CC=C1 | C29H37N5O7S
reactant | Dess-Martin periodinane | 0.43 mmol, 183 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Na2S2O3 NaHCO3 | 5 ml | [O-]S(=O)(=S)[O-].[Na+].[Na+].C(=O)(O)[O-].[Na+]
solvent | MeCl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | morpholine-4-carboxylic acid {2-phenylmethanesulfonyl-1-[1-(5-phenyl-[1,3,4]oxadiazole-2-carbonyl)-pentylcarbamoyl]-ethyl}-amide | 84 mg | C1(=CC=CC=C1)CS(=O)(=O)CC(C(NC(CCCC)C(=O)C=1OC(=NN1)C1=CC=CC=C1)=O)NC(=O)N1CCOCC1 | C29H35N5O7S
